Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Word finding difficulty, tingling in right fingers 
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Patient is a ___ ___ woman with PMH of hypertension
presented to OSH with complaints of acute onset word finding
difficulty and tingling in the right fingers around 5:30 ___.  

She was talking to her daughter over the phone when she had
difficulty getting her words out.  She quickly walked to her
husband in the next room but was not able to express her
thoughts-was trying to say stroke. She wrote down on a paper 
that
she is probably having a stroke and to take her to the hospital. 

She reports of having tingling in the right hand fingers at the
same time which did not move anywhere else.  She reports of 
being
fully aware during the event.  Symptoms lasted a total of 3 to 5
minutes.  Following this she was able to talk normally without
any difficulty. Denies any confusion or headache visual symptoms
or weakness or tingling or numbness elsewhere.  Denies similar
complaints in the past.  She was taken to OSH where she 
underwent
CT/CTA head and neck which showed small left-sided SAH, frontal
lobe mass?  and she was transferred to ___ for further
management.  She arrived on a Cardene drip and blood pressure on
arrival was 135/83. neurosurgery was consulted in the ED who
recommended no further imaging or neurosurgical intervention at
this time.  Given the description of the events neurology has
been consulted for further evaluation of possible TIA.

She denies any similar complaints in the past.  Denies any 
recent
falls but she did hit her head to the washer drawer when she was
getting up doing laundry.  Did not have any symptoms following
the injury.  No blurred vision or double vision or difficulty
swallowing or focal weakness or trouble walking.  She takes
atenolol 25 mg daily for hypertension and is not on any other
medications.
 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
No family history of cerebral aneurysms or strokes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T:  BP:135/83  HR:82  RR:16 SaO2: 100% at room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  No 
dysarthria.
Able to follow both midline and appendicular commands. Able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.  Able to read, write and
calculate without issues.

 -Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity 
R
___ L ___ -2 .
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]

L    5    5    5    5    5    5   5    5    5   5    5    5

R    5    5    5    5    5    5   5    5    5   5    5    5

 
-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:

  [Bic] [Tri] [___] [Pat] [Ach]

L   2     2      2      2     1

R   2     2      2      2     1 

Plantar response was flexor bilaterally.
Bilateral crossed adductors present
 
-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

==
DISCHARGE PHYSICAL EXAM
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

 
Neurologic:
-Mental Status: Alert, oriented to self, place, time. Able to 
relate history
without difficulty. Attentive, MOYB intact. Language is fluent 
with intact repetition and comprehension. Normal prosody. There 
were no paraphasic errors. Able to name both high and low 
frequency objects.  No dysarthria.
Able to follow both midline and appendicular commands. Delayed 
recall ___ 5 minutes. There was no evidence of apraxia or 
neglect.  Able to read, write and calculate without issues.

 -Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5
 
-Sensory: No deficits to light touch, pinprick. No extinction to 
DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 

Plantar response was flexor bilaterally.
 
-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 

 
Pertinent Results:
___ 01:16AM BLOOD WBC-8.8 RBC-4.69 Hgb-14.1 Hct-44.1 MCV-94 
MCH-30.1 MCHC-32.0 RDW-12.7 RDWSD-43.8 Plt ___
___ 01:16AM BLOOD ___ PTT-28.2 ___
___ 05:40AM BLOOD Glucose-87 UreaN-11 Creat-0.8 Na-143 
K-4.1 Cl-106 HCO3-23 AnGap-14
___ 01:16AM BLOOD ALT-25 AST-51* CK(CPK)-173 AlkPhos-103 
TotBili-0.5
___ 01:16AM BLOOD cTropnT-<0.01
___ 05:40AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.2
___ 05:34AM BLOOD %HbA1c-5.6 eAG-114
___ 01:16AM BLOOD Triglyc-75 HDL-73 CHOL/HD-2.6 LDLcalc-104
___ 01:16AM BLOOD TSH-2.4
___ 01:16AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:33AM URINE Blood-NEG Nitrite-NEG Protein-10* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-8.0 
Leuks-MOD*
___ 06:33AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG fentnyl-NEG

MRI brain - stroke protocol:

IMPRESSION:
 
 
1. Left frontoparietal subarachnoid hemorrhage, unchanged from 
outside
hospital noncontrast CT dated ___.
2. No acute infarction.
3. Periventricular and deep white matter T2/FLAIR 
hyperintensities which are nonspecific but often seen in the 
setting of chronic microvascular ischemia.

ECG:
Normal sinus rhythm with PACs. Cannot exclude anteroseptal wall 
MI, age indeterminate. Findings may also be due to lead 
positioning. no previous tracing for comparison
 
Brief Hospital Course:
___ right-handed woman with history of hypertension, 
transferred from OSH after presenting there with acute onset 
word finding difficulty and tingling in the right hand fingers, 
lasting for ___ minutes.

#CONVEXAL SUBARACHNOID HEMORRHAGE: NCHCT from OSH showed small 
SAH in the L frontoparietal lobe, which was confirmed on MRI 
brain at ___. There were also multiple microhemorrhages seen 
on the MRI. Therefore, the etiology of the bleed was suspected 
to be cerebral amyloid angiopathy. The patient's BP was 
controlled with home atenolol after brief treatment with 
nicardipine infusion. As the patient remained normotensive on 
her home regimen prior to discharge, the patient's BP regimen 
was not changed, though close outpatient follow-up should be 
maintained for further adjustment.

#INCIDENTAL LUNG MASS: On CTA head/neck obtained at ___, 19 
and 6 mm right-upper lobe masses were seen concerning for 
malignancy. Per radiology report from ___, follow-up 
imaging of the chest and pulmonary follow-up were recommended. 
This information was shared with the PCP's office (Dr. ___, 
___, ___. 

#THYROID NODULES: Multiple thyroid nodules were seen on CTA 
head/neck obtained at ___. Per radiology report from 
___, a follow-up ultrasound is recommended.

===
Transitional Issues:
[ ] Consider outpatient CT chest with contrast to further 
evaluate the incidental lung nodules seen on CTA head and neck 
at ___.
[ ] Consider thyroid ultrasound to further evaluate the thyroid 
nodules seen on CTA head and neck at ___.
[ ] Please optimize the patient's BP regimen as needed for 
target of normotension.

===
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(bleeding risk, hemorrhage, etc.)
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? () Yes - (x) No. If no, why not? (patient at 
baseline functional status)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
1.  Atenolol 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Convexal subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of word finding 
difficulties and right hand tingling, resulting from a small 
area of bleeding on the left side of your brain. An MRI of your 
brain also showed other areas of old, small bleeds, which 
suggests that you might have a condition called "cerebral 
amyloid angiopathy," a condition where the blood vessels of the 
brain are more prone to injury and bleeding. Because of your 
higher risk of brain bleeds, you should continue to follow up 
closely with your primary care doctor to control your blood 
pressure and avoid high blood pressures. You are also at higher 
risk of brain bleeding from blood thinning medications.

We did not change any of your medications during your hospital 
stay.

Please also follow up with your PCP regarding the lung nodules 
and thyroid nodules incidentally seen on the imaging of your 
head and neck from ___. We also contacted your 
PCP, ___ these findings.

You will be contacted within the next ___ business days 
regarding a follow-up appointment with Neurology. If you do not 
hear from us, please call ___ to schedule an 
appointment within the next ___ months.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___